US05965756
5c) Preparation of chlorodimethyl(1,5,6,7-tetrahydro-2,3-dimethyl-s-indacen-1-yl)silane
(1,5,6,7-tetrahydro-2,3-dimethyl-s-indacen-1-yl)lithium (9.27 g, 0.04874 moles) in THF (90 mL) was added dropwise to a solution of Me2SiCl2 (18.90 g, 0.1463 moles) in THF (50 mL). This mixture was then allowed to stir at 20-25 ° C. 16 hours. After the reaction period the volatiles were removed and the residue extracted and filtered using hexane. The removal of the hexane resulted in the isolation of the desired product as an orange/brown oil (10.35 g, 76.7 percent).

reactant | (1,5,6,7-tetrahydro-2,3-dimethyl-s-indacen-1-yl)lithium | 0.04874 moles, 9.27 g | CC=1C(C2=CC=3CCCC3C=C2C1C)[Li]
reactant | Me2SiCl2 | 0.1463 moles, 18.90 g | [Si](Cl)(Cl)(C)C | C2H6Cl2Si
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | chlorodimethyl(1,5,6,7-tetrahydro-2,3-dimethyl-s-indacen-1-yl)silane | 10.35 g, 76.7 percent | Cl[Si](C1C(=C(C2=CC=3CCCC3C=C12)C)C)(C)C | C16H21ClSi
